Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ primarily ___ 
right-handed
male with a history of diabetes, nonalcoholic steatohepatitis,
GERD, hypertension, and hyperlipidemia; who presents with
constant vertigo since 7:30 ___ (___) in the setting of
intermittent episodes of vertigo for the past 2 days. It is 
worse
with any movement and he has extreme difficulty walking as a
result.  It is been accompanied by nausea and multiple episodes
of vomiting. He has never had similar symptoms before. There is
been no recent head trauma,  nor any history of other
neurological symptoms.  He denies blurry or double vision, and 
is
able to read.  No weakness, numbness, paresthesias, or trouble
speaking or comprehending. 

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain,
abdominal pain, diarrhea, constipation.  

 
Past Medical History:
-Nonalcoholic steatohepatitis
-Type 2 diabetes
-Hypertension
-Hyperlipidemia
-GERD
-Gout
 
Social History:
___
Family History:
Mother with hypertension and hyperlipidemia.

 
Physical Exam:
Admission exam:
Vitals: T: 96.4 P: 79 r: 18 BP: 135/81 SaO2: 99%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty using combination of ___ and ___.
Language is fluent with intact comprehension. Normal prosody. 
ble
to read without difficulty. Speech is not dysarthric. Able to
follow both midline and appendicular commands. There is no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: Right-beating nystagmus on all directions of gaze,
including in primary gaze.  Amplitude greatest on rightward 
gaze.
Unable to interpret head impulse testing due to continuous
nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5  5     5   5    5  5     5     5   5
R  5    ___   5  5     5   5    5  5     5     5   5

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    3   2
R  1  1    1    3   2
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF.  Able to continue finger-nose-finger with
eyes closed bilaterally, without progressive offshoot. 

-Gait: Did not assess
Discharge exam:
vitals: 133/70 HR 70, 97%RA
GEN: NAD
CV: RRR
Pulm: breathing comfortably on RA

Neuro:
alert and oriented x3. PERRL, EOMI with right beating nystagmus 
on right gaze, face symmetric, language intact, no dysarthria, 
follows simple and complex commands, strength ___ throughout, 
sensation to LT intact throughout
 
Pertinent Results:
___ 06:00PM URINE  HOURS-RANDOM
___ 06:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 06:00PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:00PM URINE  MUCOUS-OCC
___ 10:30AM   ALT(SGPT)-74* AST(SGOT)-33 LD(LDH)-139 
CK(CPK)-91 ALK PHOS-61 TOT BILI-0.5
___ 10:30AM   GGT-78*
___ 10:30AM   CK-MB-2 cTropnT-<0.01
___ 10:30AM   TOT PROT-7.0 ALBUMIN-4.5 GLOBULIN-2.5 
CHOLEST-173
___ 10:30AM   %HbA1c-8.4* eAG-194*
___ 10:30AM   TRIGLYCER-134 HDL CHOL-38 CHOL/HDL-4.6 
LDL(CALC)-108
___ 10:30AM   TSH-0.82
___ 10:30AM   ___ PTT-28.7 ___
___ 04:29AM   COMMENTS-GREEN TOP
___ 04:29AM   LACTATE-2.0
___ 04:20AM   estGFR-Using this
___ 04:20AM   ALT(SGPT)-83* AST(SGOT)-49* ALK PHOS-65 TOT 
BILI-0.5
___ 04:20AM   LIPASE-21
___ 04:20AM   cTropnT-<0.01
___ 04:20AM   ALBUMIN-4.7 CALCIUM-9.4 PHOSPHATE-3.1 
MAGNESIUM-1.8
___ 04:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:20AM   NEUTS-83.3* LYMPHS-12.9* MONOS-2.6* EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-6.74*# AbsLymp-1.04* AbsMono-0.21 
AbsEos-0.01* AbsBaso-0.03
___ 04:20AM   PLT COUNT-219
___ 04:20AM   ___ PTT-27.3 ___

MRI brain
IMPRESSION: 
  
  
1. No evidence of territorial infarction, hemorrhage, or edema. 
2. Mild paranasal sinus disease with fluid in the left maxillary 
sinus, which can be seen with acute sinusitis; correlate 
clinically. 

 
Brief Hospital Course:
___ right-handed man with a history of diabetes,
hypertension, hyperlipidemia, NASH, GERD, gout, and prior 
smoking who presents with vertigo and right-beating nystagmus. 
Based on the history of recent URI and exam findings, etiology 
is most likely peripheral in nature. MRI brain without contrast 
showed no acute infarct. Given his risk factors LDL 108 (already 
on statin)and A1c 8.4 patient was started on ASA 81mg daily. 
Concerning his elevated A1c h follows closely with his PCP who 
recently made adjustments to his regimen. He will need to follow 
up with his PCP for further management. His symptoms improved 
the following day. Patient was evaluated by ___ who recommended 
outpatient vestibular physical therapy. He was discharged din 
stable condition with neuro outpatient follow up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. GlipiZIDE 10 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Naproxen 500 mg PO Q8H:PRN Pain - Mild 
6. Omeprazole 20 mg PO DAILY 
7. Pravastatin 40 mg PO QPM 
8. Ketoconazole 2%  1 Appl TP BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Meclizine 25 mg PO Q6H:PRN Vertigo 
RX *meclizine 25 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  GlipiZIDE 10 mg PO DAILY  
5.  Ketoconazole 2%  1 Appl TP BID  
6.  Lisinopril 10 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Naproxen 500 mg PO Q8H:PRN Pain - Mild  
9.  Omeprazole 20 mg PO DAILY  
10.  Pravastatin 40 mg PO QPM  
11.Outpatient Physical Therapy
ICD10:H81.2 (Vestibular Neuronitis)
Name/Contact: Dr ___ ___
Request: Vestibular Physican therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for symptoms of  vertigo. ___ were 
admitted to the Neurology team for evalulation.  To rule out 
dangerous causes of vertigo ___ underwent a MRI of your brain 
which was normal.

Based on your history and exam we think the reason for your 
vertigo is most due to a problem in your inner ear (sometimes 
called "peripheral vertigo").  This is a common cause of vertigo 
frequently due to a small infection or irritation in the inner 
ear that improves with time.
 
As part of your work up we found that ___ have an elevated A1c a 
sign of elevated blood sugars.  We strongly recommend ___ follow 
up with your primary care physician to continue to work towards 
well controlled blood sugars.

We also started ___ on Aspirin 81mg daily. 
___ were seen by physical therapy who recommended outpatient ___ 
to help ___ recover from your imbalance.
___ were also prescribed a medicine Meclizine to take as needed 
in case of recurrent vertigo.

It was a pleasure taking care of ___,
-Your ___ Care Team
 
Followup Instructions:
___